Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim
 
Attending: ___.
 
Chief Complaint:
fall, left lower extremity weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M w/ PMH fall and gait disorder, dementia, chronic kidney 
disease, hypertension, hyperlipidemia, COPD, pulmonary fibrosis 
from chronic aspiration, and urinary retention, now presenting 
with weakness in left lower extremity after a fall.  
Pt is accompanied by his son, an ER physician, who states that 
Pt had an unwitnessed fall yesterday but did not report any pain 
or have any concerning symptoms at the time. Today, he reported 
L lower extremity weakness and discomfort, and he was brought to 
the ED for further evaluation.  
In the ED, initial vs were: ___, 97, 133/62, 18, 95% RA. Labs 
were remarkable for Hct 33 (down from baseline 38 in ___, 
Cr 2.3 (up from baseline 1.8), UA w/ 182 WBCs, many bacteria, 1 
epi. Patient was given ceftriaxone 1g x 1. Given his report of L 
lower extremity pain after his fall, he also had a CT head, and 
plain films of L hip, pelvis, and knee, none of which showed any 
abnormalities on prelim read. Pt was still unable to ambulate on 
L leg but seemed to have full ROM and no pain on exam. Pt was 
admitted to medicine further workup and physical therapy 
evaluation.  
On the floor, vs were: 97.9F, 132/70, 89, 20, 94% RA.  
Pt reports feeling just fine except that he can't support 
himself on his left leg while standing. Denies any fevers or 
chills. No dysuria. Pt's son reports somewhat decreased po 
intake. One son indicates that Pt has had some left-sided 
weakness in upper and lower extremities after a stroke in ___ 
another son states this was minimal and that Pt had no problems 
ambulating with a walker prior to his fall yesterday.  

 
Past Medical History:
/o urinary retention w/ indwelling Foley Catheter from ___ 
to ___ Urology BWH, attributed to bladder atonia  
Non-melanomatous skin cancer (2 on face, 1 right arm)  
Cataract OD  
Dementia, Memory Loss, MRI of brain showing microvascular 
disease  
CKD  
Gout  
Pulmonary Fibrosis likely due to chronic aspiration  
COPD  
Pneumonia ___  
HTN  
Constipation  
Dyslipidemia  
s/p central retinal vein thrombosis OS complicating cataract  
s/p central retinal vein thrombosis OS complicating cataract  
s/p endoscopic repair of Zenkers Diverticulum ___  
s/p Fall with inferior pubic ramus fracture ___  

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: 97.9F, 132/70, 89, 20, 94% RA.  
General: elderly man in bed, alert, oriented, no acute distress  

HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: bilateral insp fine crackles in bases R > L, moderate 
expiratory wheezes  
CV: distant heart sounds, regular rate and rhythm, normal S1 + 
S2, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. L lower extremity with very slight effusion of L knee. 
Normal range of motion at L knee and L hip w/ no pain at all.  
Skin: no rashes  
Neuro: A&O x 3. Normal sensation throughout. ___ strength in L 
upper extremity. ___ strength in R upper and bilateral lower 
extremitites. When patient stands with a cane, he cannot support 
his weight with his left leg. He usually ambulates with a walker 
at home.  

DISCHARGE PHYSICAL EXAM
Vitals: 97.9, 116/76, 82, 18, 98% Ra
General: elderly man in bed, alert, oriented, no acute distress  

HEENT: Sclera anicteric, MMM, oropharynx clear  
Lungs: bilateral insp fine crackles, moderate expiratory wheezes 
 
CV: distant heart sounds, regular rate and rhythm, normal S1 + 
S2Abdomen: soft, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. Normal range of motion at L knee and L hip w/ no pain at 
all.  
Skin: no rashes  
Neuro: A&O x 3. ___ strength in upper and bilateral lower 
extremitites. Able to ambulate with walker 
 
Pertinent Results:
ADMISSION LABS
___ 04:20PM BLOOD WBC-9.2 RBC-3.63* Hgb-11.2* Hct-33.1* 
MCV-91 MCH-31.0 MCHC-34.0 RDW-13.9 Plt ___
___ 04:20PM BLOOD Neuts-78.8* Lymphs-13.2* Monos-4.5 
Eos-3.2 Baso-0.3
___ 04:20PM BLOOD Plt ___
___ 04:20PM BLOOD Glucose-108* UreaN-34* Creat-2.3* Na-143 
K-4.4 Cl-106 HCO3-33* AnGap-8

URINALYSIS
___ 05:53PM URINE Color-Yellow Appear-Hazy Sp ___
___ 05:53PM URINE Blood-TR Nitrite-NEG Protein-100 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG
  URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed skin/genital flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    64 I
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

DISCHARGE LABS
___ 05:45AM BLOOD WBC-6.5 RBC-3.20* Hgb-10.2* Hct-29.8* 
MCV-93 MCH-31.7 MCHC-34.1 RDW-13.9 Plt ___
___ 05:45AM BLOOD Glucose-98 UreaN-29* Creat-1.9* Na-138 
K-3.9 Cl-104 HCO3-28 AnGap-10

RADIOLOGY
CT HEAD 
1. No acute intracranial pathology. 
  
2. Prominent extra-axial spaces likely enlarged subarchnoid 
spaces in setting 
of volume loss but component of subdural fluid suggested along 
the right 
frontal convexity may represent the sequelae of prior subdural 
hematoma.

LEFT HIP XRAY
There is no acute fracture or dislocation.  The bones are 
diffusely 
osteopenic.  The are mild degenerative changes of the hips and 
minimal 
degenerative changes of the knee.  Severe degenerative changes 
of the lumbar 
spine are noted.  Extensive vascular calcifications are noted.  
A sclerotic 
focus within the medullary cavity of the left distal femur may 
reflect a small 
enchondroma or bone infarct. 

LEFT KNEE XRAY
There is no acute fracture or dislocation.  The bones are 
diffusely 
osteopenic.  The are mild degenerative changes of the hips and 
minimal 
degenerative changes of the knee.  Severe degenerative changes 
of the lumbar 
spine are noted.  Extensive vascular calcifications are noted.  
A sclerotic 
focus within the medullary cavity of the left distal femur may 
reflect a small 
enchondroma or bone infarct. 
 
DISCHARGE LABS:

___ 05:45AM BLOOD WBC-6.5 RBC-3.20* Hgb-10.2* Hct-29.8* 
MCV-93 MCH-31.7 MCHC-34.1 RDW-13.9 Plt ___
___ 05:45AM BLOOD Glucose-98 UreaN-29* Creat-1.9* Na-138 
K-3.9 Cl-104 HCO3-28 AnGap-10
___ 05:45AM BLOOD Calcium-9.2 Phos-3.2 Mg-1.___ M w/ PMH fall and gait disorder, dementia, chronic kidney 
disease, hypertension, hyperlipidemia, COPD, pulmonary fibrosis 
from chronic aspiration, and urinary retention, now presenting 
with weakness in left lower extremity after a fall.  

ACTIVE ISSUES
# UTI: Pt previously had a foley from ___ to ___ but 
urinary issues were attributed to atonic bladder rather than 
obstruction. Pt's son reports that Pt's condition improved with 
better nutrition and hydration, and Pt has not needed a foley 
for the last ___ months. Upon admission, the patient was found 
to have pyuria and bacturia on urinalysis.  The patient denied 
any urinary symptoms including dysuria, urgency or frequency.  
The patient was treated for a UTI, as it is unclear if the fall 
was an abnormal presentation of UTI.  Patient was initally 
treated with ceftriaxone 1g IV daily starting on ___.  On 
___, the patient was switched to Ciprofloxacin PO daily with 
a plan for a total 7 day course of antibiotics ending on ___. 
 Urine cultures ultimately grew Klebsiella sensitive to Cipro.
 
# FALL: Per OMR, the patient's geriatrician documents his 
history of falls and gait instability, though it is not 
described in detail. The patient firmly denies having any 
pre-syncopal symptoms, chest pain, palpitations, dizziness, or 
any other concerning symptoms prior to his falls. Head CT was 
negative for any acute changes. Upon admission he reported 
continued L lower extremity weakness when attempting to stand. 
However, exam revealed full ROM of L knee and L hip w/ out any 
pain. Xrays of the left hip/pelvis and knee did not show any 
fracture and the patient's weakness ultimately improved.  Upon 
discharge, the patient was able to ambulate with assistance with 
a walker.    
 
# ACUTE ON CHRONIC RENAL FAILURE: On admission, the patient's 
creatinine was found to be 2.3 from a baseline of 1.9 (according 
to records from ___.  The patient's son reports that the 
patient had decreased PO intake leading up to admission.  This 
combined with the heat wave preceding admission likely 
precipitated the patient's acute on chronic renal failure.  
Creatinine improved to baseline with IVF. Upon discharge, the 
patient's orthostasis had improved and the patient denied any 
symptoms of dizziness or lightheadedness. 

CHRONIC ISSUES:  
# dementia: home donepezil  
# gout: home allopurinol  
# hypertension: home amlodipine  
# vitamin d deficiency: home calcitiol  
# constipation: home docusate, PEG PRN  
# GERD: home omeprazole  
# depression: home mirtazapine  
# COPD: home tiotropium bromide 

TRANSITIONAL ISSUES
-  last day of antibiotcs ___
-  please f/u concerns for allopurinol (ckd, cachexia) and 
consider tapering 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Amlodipine 10 mg PO DAILY 
hold for sbp < 90 
3. Calcitriol 0.25 mcg PO DAILY 
4. Donepezil 10 mg PO DAILY 
5. esomeprazole magnesium *NF* 40 mg Oral daily 
6. Mirtazapine 15 mg PO HS 
7. Tiotropium Bromide 1 CAP IH DAILY 
8. Docusate Sodium 100 mg PO BID 
hold for diarrhea 
9. Polyethylene Glycol 17 g PO DAILY:PRN constipation 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Amlodipine 10 mg PO DAILY 
Please hold for SBP<100 
3. Calcitriol 0.25 mcg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Donepezil 10 mg PO DAILY 
6. Mirtazapine 15 mg PO HS 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
8. Tiotropium Bromide 1 CAP IH DAILY 
9. Ciprofloxacin HCl 250 mg PO Q24H Duration: 5 Days 
10. esomeprazole magnesium *NF* 40 mg Oral daily 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
Urinary Tract Infection

SECONDARY
Chronic Kidney Disease
Dementia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___.  You 
came into the hospital dehydrated and had fallen at home.  Your 
urine studies also showed that you had a urinary tract 
infection.  You were treated with antibiotics for your urine 
infection and IV fluids for your dehydration and you began to 
feel better.  You also came into the hospital with left leg 
weakness.  Xrays of your L hip and knee were normal and your 
left leg weakness improved with physical therapy.

Please find attached your new medication list which includes the 
antibiotic that is treating your urinary tract infection.

Please also note your followup appointment with Dr. ___ 
which is attached below.
 
Followup Instructions:
___